US08114886B2
6-(Difluoromethyl)pyridine-3-amine
To a solution of tert-butyl[6-(difluoromethyl)pyridin-3-yl]carbamate (1.11 g, 4.54 mmol) in dichloromethane (8 ml), trifluoroacetic acid (8 ml) was added at room temperature. The reaction mixture was stirred for 5 hours at the same temperature, and then was concentrated under reduced pressure. Dichloromethane and saturated aqueous sodium hydrogencarbonate were added to the resulting residue. The organic layer was taken, and the organic layer was dried over anhydrous sodium sulfate and filtered. Subsequently, the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel chromatography, and the fraction obtained from an elution with hexane:ethyl acetate=2:1 was concentrated under reduced pressure to obtain the title compound (540 mg, 3.75 mmol, 82%) as a pale green oily substance.

reactant | tert-butyl[6-(difluoromethyl)pyridin-3-yl]carbamate | 4.54 mmol, 1.11 g | C(C)(C)(C)OC(NC=1C=NC(=CC1)C(F)F)=O | C11H14F2N2O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(Difluoromethyl)pyridine-3-amine | 3.75 mmol, 540 mg, 82% | FC(C1=CC=C(C=N1)N)F | C6H6F2N2
